US07964643B2
4-Bromo-3-methylphenyl-sulfonic acid-(4-hydroxybutyl)-amide
Using a method analogous to that described in Example 1, 4-bromo-3-methylphenyl sulphonyl chloride was reacted with 4-aminobutanol, and the title compound obtained as a white solid after recrystallisation from ether/petrol.

reactant | 4-bromo-3-methylphenyl sulphonyl chloride | BrC1=C(C=C(C=C1)S(=O)(=O)Cl)C | C7H6BrClO2S
reactant | 4-aminobutanol | NCCCCO | C4H11NO
product | 4-Bromo-3-methylphenyl-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=CC(=C(C=C1)Br)C | C11H16BrNO3S
